US08053438B2
A solution of benzene-1,2-diamine (1.5 g, 14 mmol), triethyl orthoformate (5.7 mL, 37 mmol), and benzenesulfonic acid (0.075 g, 0.47 mmol) in toluene (15 mL) was heated to reflux for 4 h and then slowly distilled to remove half of the solvent. The mixture was then cooled to RT and neutralized with diisopropyl amine, followed by addition of a solution of ethyl 4-(3-chloropyrazin-2-yloxy)benzoate (4.3 g, 15 mmol) in THF (15 mL). The mixture was cooled to −78° C. and 1.2 equiv of LDA (9.2 mL, 17 mmol) was added. After aging at −78° C. for 1.5 h, the mixture was warmed to RT after 1.5 h and then 2N HCl was added and the mixture was agitated for 30 min. Following that, the mixture was adjusted to pH 9 with 1N NaOH. Ethyl acetate was added and the layers were separated, the aqueous was extracted with ethyl acetate (3×), and the combined organics were washed with brine, dried over Na2SO4, filtered and concentrated. Upon treatment with MeOH, a yellow solid crashed out which was filtered and collected to give (1H-benzo[d]imidazol-2-yl)(4-(3-chloropyrazin-2-yloxy)phenyl)methanone.

reactant | benzene-1,2-diamine | 14 mmol, 1.5 g | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | triethyl orthoformate | 37 mmol, 5.7 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | benzenesulfonic acid | 0.47 mmol, 0.075 g | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
reactant | ethyl 4-(3-chloropyrazin-2-yloxy)benzoate | 15 mmol, 4.3 g | ClC=1C(=NC=CN1)OC1=CC=C(C(=O)OCC)C=C1 | C13H11ClN2O3
reactant | LDA | 17 mmol, 9.2 mL, 1.2 equiv | [Li+].CC(C)[N-]C(C)C
reactant | HCl | 2N | Cl | ClH
reactant | NaOH | 1N | [OH-].[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1H-benzo[d]imidazol-2-yl)(4-(3-chloropyrazin-2-yloxy)phenyl)methanone | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2Cl | C18H11ClN4O2
